US06821967B2
9-[4-(4-quinoxalin-2-yl-piperazin-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-(piperazin-1-yl)-quinoxaline.

reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO2
reactant | 2-(piperazin-1-yl)-quinoxaline | N1(CCNCC1)C1=NC2=CC=CC=C2N=C1 | C12H14N4
product | 9-[4-(4-quinoxalin-2-yl-piperazin-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2N=C1)(F)F | C32H32F3N5O2
